US07989444B2
10-bromo-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 10-Bromo-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (120 mg) and 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (177 mg) and was obtained as a colourless slightly hygroscopic solid (66 mg).

reactant | 10-Bromo-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 120 mg | BrC1=C2C(=CC=3CCNCCC31)N=C(O2)C(F)(F)F | C12H10BrF3N2O
reactant | 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 177 mg | ClCCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C17H19ClN4S
product | 10-bromo-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.BrC1=C2C(=CC=3CCN(CCC31)CCCCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C)N=C(O2)C(F)(F)F | InChI=1S/C29H28BrF3N6OS.ClH/c1-17-8-9-20-21(6-5-7-22(20)34-17)26-36-37-28(38(26)2)41-15-4-3-12-39-13-10-18-16-23-25(24(30)19(18)11-14-39)40-27(35-23)29(31,32)33;/h5-9,16H,3-4,10-15H2,1-2H3;1H
